2145-03-22 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: q 2 hr PD
   24 Hour Events:
   - transferred from floor for q 2 hr PD
   - transient hypoxia intermittently overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-3-22**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-22**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 73 (62 - 84) bpm
   BP: 98/49(61) {85/42(51) - 137/67(83)} mmHg
   RR: 41 (9 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    100 mL
                                                                  4,000 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -100 mL
                                                                 -4,000 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   388 K/uL
   9.1 g/dL
   101 mg/dL
   6.9 mg/dL
   29 mEq/L
   4.4 mEq/L
   36 mg/dL
   100 mEq/L
   138 mEq/L
   29.2 %
   6.7 K/uL
        [image002.jpg]
                             [**2145-3-22**]  04:48 AM
   WBC
   6.7
   Hct
   29.2
   Plt
   388
   Cr
   6.9
   Glucose
   101
   Other labs: ALT / AST:28/18, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:76.1 %, Lymph:15.8 %, Mono:5.7 %, Eos:1.9 %,
   Albumin:2.0 g/dL, LDH:236 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:5.9
   mg/dL
   Assessment and Plan
   78 y/o M with PMHx of CAD s/p CABG & MI, Metastatic Carcinoid and
   chronic abd/back pain who presents with decreased po intake, diarrhea,
   lethargy and hypotension found to have colitis on CT. Now with
   ileus/SBO.
   .
   # AMS: variable course over his stay.  likely multifactorial including
   narcotics, toxic/metabolic related to renal failure.  It appears to be
   most consistent with delirium.  Had CT head with contrast on [**3-17**], but
   this does not definitively r/o brain metastases.  Neuro exam is
   nonfocal.  BUN has improved over the last 10 days.
   - PD as per renal recs
   - cont pain management as is for now, but wean if possible
   - avoid any other sedating medications
   - consider head imaging, but presentation unlikely from stroke.  ?
   relation to brain mets.  None on CT head with contrast, but this is
   inferior to MRI.
   .
   # ESRD on PD: renal following.  Sent to ICU for increased PD care per
   renal.
   - appreciate renal recs
   - continue Calcitriol, epo per renal recs
   .
   # LE weakness: underwent workup for cord compression, including spine
   consult.  Not felt to be related to cord compression.  Likely related
   to decondition, pain, lethargy from ? toxic/metabolic.  ? myopathy.
   - PT
   - pain control
   - consider neuro consult, EMG, though goals of care should be addressed
   first.
   .
   #Back Pain: Chronic.  Sclerotic lesions in T and L spine by CT and
   lesion on iliac by octreotide scan. Also contribution of degenerative
   changes and deconditioning. followed by P&P Care.
   - f/u PT recs
   - cont pain regimen
   .
   #. RIJ and L subclavian thrombus: Pt INR 3.5 today. Pt with difficult
   access and difficult lab draws.  Sensitivity to coumadin likely [**2-22**]
   nutrition deficiencies.
   - holding coumadin goal INR [**2-23**]. Will need minimum of 3 months.
   - cont to monitor for bleeding
   .
   # Abdominal Pain/Colitis
 s/p 10 day course of zosyn. On PO vanco for
   presumptive c. diff until [**3-26**]. Finished IV Vancomycin for peritonitis.
   Has continued diffuse TTP.
   - po Vanc until [**3-26**]
   - trend exam, image for worsening.
   .
   #. Ileus/partial SBO: Resolved. tolerating regular diet. Pt clear by
   S&W.
   - cont to monitor
   .
   # Metastatic Carcinoid: Pt followed by Hem/Onc. Pt had octreotide scan
   that showed increase in disease.
   - palliative care recs
   - pain control
   - f/u with Dr. [**Last Name (STitle) 123**] re: long term care goals
   .
   # Anemia: Baseline hct in low 30s, stable in upper 20s after 1 unit
   transfused. Guaiac was negative per resident report, but positive per
   nursing report.
   - goal Hct >25
   - guaiac all stools
   - PPI & trend hct
   .
   # Tranaminitis
 LFTs trending down. Previously thought to be from
   shocked liver. Likely combination of malignancy and shocked liver.
   .
   # CAD s/p CABG/NSTEMI: pt is currently denying CP, EKGs at baseline.
   CK/MB flat .  Plavix was discontinued given therapeutic to
   supertherapeutic INR and no stent in last year.
   - continue Aspirin 325mg
   - metoprolol held for hypotension.  Restart as BP tolerates.
   .
   # Ureteral stent
 urology consulted for hyperdense finding in CT scan,
   thought to possibly be blood. Urology reviewed scan and did not think
   any intervention at this time was needed, especially in setting of this
   infection.
   .
   # Decubitus Ulcer:  wound care
   .
   # FEN: Cont regular diet with shakes
   .
   # Prophylaxis: Coumadin, PPI
   .
   # Access: PIV
   .
   # Code: DNR/DNI, but pressors/CVL okay as per last ICU stay.  Needs to
   be readdressed with pt/family  and goals of with Dr. [**Last Name (STitle) 123**].
   .
   # Communication: Patient & wife [**Name (NI) 2065**] [**Telephone/Fax (1) 8271**]
   .
   # Disposition: ICU for PD.  [**Month (only) 60**] be able to go straight from ICU to
   rehab.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2145-3-21**] 10:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2145-03-23 08:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Transient hypotension after Oxycontin dose, resolved with 1 L NS
   - Pancultured
   - Mental status waxed and waned, ? temporal relationship to Oxycontin
   dosing
   - Oxycontin discontinued
   - retarted Simvastatin
   - Continued PD q 2 hours without change
   - Family meeting scheduled for 3 PM on [**3-23**]
   - c/o pain in sacrum in the PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-3-23**] 06:28 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Pain: [**5-26**] Moderate
   Pain location: Sacrum
   Flowsheet Data as of  [**2145-3-23**] 08:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.9
C (96.7
   HR: 76 (55 - 84) bpm
   BP: 107/49(58) {71/30(45) - 164/120(95)} mmHg
   RR: 15 (11 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,731 mL
                                                                     83 mL
   PO:
             TF:
   IVF:
                                                                  1,731 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  5,500 mL
                                                                    100 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,769 mL
                                                                    -18 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: diffusely
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm, sacral decub
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   368 K/uL
   8.8 g/dL
   108 mg/dL
   6.5 mg/dL
   30 mEq/L
   4.4 mEq/L
   29 mg/dL
   101 mEq/L
   139 mEq/L
   27.6 %
   7.0 K/uL
        [image002.jpg]
                             [**2145-3-22**]  04:48 AM
                             [**2145-3-23**]  03:44 AM
   WBC
   6.7
   7.0
   Hct
   29.2
   27.6
   Plt
   388
   368
   Cr
   6.9
   6.5
   Glucose
   101
   108
   Other labs: PT / PTT / INR:32.0/39.0/3.3, ALT / AST:26/18, Alk Phos / T
   Bili:106/0.2, Differential-Neuts:76.1 %, Lymph:15.8 %, Mono:5.7 %,
   Eos:1.9 %, Lactic Acid:1.7 mmol/L, Albumin:2.0 g/dL, LDH:236 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:6.3 mg/dL
[**2145-3-22**] 3:04 pm PERITONEAL FLUID      PERITONEAL FLUID.
   GRAM STAIN (Final [**2145-3-22**]):
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   FLUID CULTURE (Preliminary):
   ANAEROBIC CULTURE (Preliminary):
   FUNGAL CULTURE (Preliminary):
CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2145-3-22**]):
      Feces negative for C.difficile toxin A & B by EIA.
           (Reference Range-Negative).
   Assessment and Plan
   78 y/o M with PMHx of CAD s/p CABG & MI, Metastatic Carcinoid and
   chronic abd/back pain who presents with decreased po intake, diarrhea,
   lethargy and hypotension found to have colitis on CT.  Transferred to
   ICU for increased PD requirement.
   # AMS: variable course over his stay.  likely multifactorial including
   narcotics, toxic/metabolic related to renal failure.  It appears to be
   most consistent with delirium.  Had CT head with contrast on [**3-17**], but
   this does not definitively r/o brain metastases.  Neuro exam is
   nonfocal.  BUN has improved over the last 10 days.
   - PD as per renal recs
   - cont pain management as is for now, but wean if possible
   - avoid any other sedating medications
   - consider head imaging, but presentation unlikely from stroke.  ?
   relation to brain mets.  None on CT head with contrast, but this is
   inferior to MRI.
    # ESRD on PD: renal following.  Sent to ICU for increased PD care per
   renal.
   - appreciate renal rcs
   - continue Calcitriol, epo per renal recs
   # LE weakness: underwent workup for cord compression, including spine
   consult.  Not felt to be related to cord compression.  Likely related
   to decondition, pain, lethargy from ? toxic/metabolic.  ? myopathy or
   paraneoplastic.
   - PT
   - pain control
   - consider neuro consult, EMG, though goals of care should be addressed
   first.
   #Back Pain: Chronic.  Sclerotic lesions in T and L spine by CT and
   lesion on iliac by octreotide scan. Also contribution of degenerative
   changes and deconditioning. followed by P&P Care.
   - f/u PT recs
   - cont pain regimen
   #. RIJ and L subclavian thrombus: Pt INR 3.5 today. Pt with difficult
   access and difficult lab draws.  Sensitivity to coumadin likely [**2-22**]
   nutrition deficiencies.
   - holding coumadin goal INR [**2-23**]. Will need minimum of 3 months.
   - cont to monitor for bleeding
   # Abdominal Pain/Colitis
 s/p 10 day course of zosyn. On PO vanco for
   presumptive c. diff until [**3-26**]. Finished IV Vancomycin for peritonitis.
   Has continued diffuse TTP and guarding.  Afebrile with no signs of
   infection. ? ischemic.
   - consider resending peritoneal fluid for culture, though no fever or
   leukocytosis
   - send lactate
   - po Vanc until [**3-26**]
   - trend exam, image for worsening.
    # Metastatic Carcinoid: Pt followed by Hem/Onc. Pt had octreotide scan
   that showed increase in disease.
   - palliatie care recs
   - pain control
   - f/u with Dr. [**Last Name (STitle) 123**] re: long term care goals
    # Anemia: Baseline hct in low 30s, stable in upper 20s after 1 unit
   transfused. Guaiac positive brown stool.
   - goal Hct >25
   - guaiac all stools
   - PPI & trend hct
   # Tranaminitis
 LFTs trending down. Previously thought to be from
   shocked liver. Likely combination of malignancy and shocked liver.
   # CAD s/p CABG/NSTEMI: pt is currently denying CP, EKGs at baseline.
   CK/MB flat .  Plavix was discontinued given therapeutic to
   supertherapeutic INR and no stent in last year.
   - continue Aspirin 325mg
   - metoprolol held for hypotension.  Restart as BP tolerates.
   - restart statin
   # Ureteral stent
 urology consulted for hyperdense finding in CT scan,
   thought to possibly be blood. Urology reviewed scan and did not think
   any intervention at this time was needed, especially in setting of this
   infection.
   # Decubitus Ulcer:  wound care
   # FEN: Cont regular diet with shakes
   # Prophylaxis: Coumadin, PPI
   # Access: PIV
   # Code: DNR/DNI, but pressors/CVL okay as per last ICU stay.  Needs to
   be readdressed with pt/family  and goals of with Dr. [**Last Name (STitle) 123**].
   # Communication: Patient & wife [**Name (NI) 2065**] [**Telephone/Fax (1) 8271**]
   # Disposition: ICU for PD.  [**Month (only) 60**] be able to go straight from ICU to
   rehab.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2145-3-21**] 10:21 PM
   18 Gauge - [**2145-3-22**] 12:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2145-03-23 10:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Planning family meeting at 3pm today. Had transient hypotension,
   resolved after 1L NS. Stopped oxycontin as seemed to cause AMS.
   Continued PD with q2h exchanges.
 BLOOD CULTURED - At [**2145-3-22**] 03:30 PM
   1x unable to obtain 2nd
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-3-23**] 06:28 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-23**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36
C (96.8
   HR: 81 (55 - 84) bpm
   BP: 140/60(79) {71/30(45) - 164/120(95)} mmHg
   RR: 10 (10 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,731 mL
                                                                     83 mL
   PO:
             TF:
   IVF:
                                                                  1,731 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  5,500 mL
                                                                 -2,400 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,769 mL
                                                                  2,483 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   L base)
   Abdominal: Soft, Bowel sounds present, Tender: RLQ with guarding
   Extremities: Right: 1+, Left: 1+, Cyanosis
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   368 K/uL
   108 mg/dL
   6.5 mg/dL
   30 mEq/L
   4.4 mEq/L
   29 mg/dL
   101 mEq/L
   139 mEq/L
   27.6 %
   7.0 K/uL
        [image002.jpg]
                             [**2145-3-22**]  04:48 AM
                             [**2145-3-23**]  03:44 AM
   WBC
   6.7
   7.0
   Hct
   29.2
   27.6
   Plt
   388
   368
   Cr
   6.9
   6.5
   Glucose
   101
   108
   Other labs: PT / PTT / INR:32.0/39.0/3.3, ALT / AST:26/18, Alk Phos / T
   Bili:106/0.2, Differential-Neuts:76.1 %, Lymph:15.8 %, Mono:5.7 %,
   Eos:1.9 %, Lactic Acid:1.7 mmol/L, Albumin:2.0 g/dL, LDH:236 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
 HYPOXEMIA
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 DELIRIUM / CONFUSION
   78 y/o m with CAD, mx carcinoid, colitis with sepsis, ESRD on PD, here
   with AMS, slight hypotension, and abd pain.
   1. AMS: Slightly related to oxycontin
   -avoid long acting meds, cont. standing tylenol and dilaudid prn
   2. ESRD on PD:
   -discussing PD 4-6 times per day
   -calcitriol, epogen
   -goal positive 1L
   3. Abd pain: ? C. Diff
   -cont. po vanco/flagyl until 6th
   -discuss pain regimen with palliative care
   -may be ischemic colitis, worsened with eating
   -PD fluid GS neg
   4. Mx carcinoid: Interval progression of disease
   -readdress at family meeting
   5. CAD: recent NSTEMI
   -cont. ASA, statin
   -start metoprolol 12.5 mg [**Hospital1 **]
   6. sacral decub: wound care, turning
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2145-3-21**] 10:21 PM
   18 Gauge - [**2145-3-22**] 12:12 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent:
   ------ Protected Section ------
   I have seen and examined the patient with the fellow, reviewed and
   agree with the assessment and plan as above with the following
   modifications and emphasis:
   78 year old male with CAD, NSTEMI, carcinoid tumor, ESRD on PD admitted
   to the hospital with colitis and transferred to the ICU because of
   change in mental status.
   No episodes of hypotension since yesterday and mental status improved
   thus likely related to the oxycodone.
   On exam, temp 36.8   P 81  BP 123/66  RR 20  95%
   Awake, alert
   Chest: CTA bilaterally
   Heart: S1S2 reg
   Abd: soft, NT, ND
   Ext: warm
   A:
   1)       Mental Status Changes: improved since yesterday and likely the
   result of oxycodone (in part)
   2)       Hypotension
 no episodes since yesterday and therefore likely
   oxycodone
   3)       Carcinoid tumor
   4)       ESRD on PD
   5)       CAD
   6)       Venous thrombosus
   Plan:
   - Can transfer to the floor
   - Continue PD
   - Family meeting today
   Time: 15 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 313**], MD
   on:[**2145-3-23**] 18:55 ------